US08614237B2
2,3-dichlorocyclohexa-2,5-diene-1,4-dione:2
1,4-Benzoquinone (2.01 g, 18.59 mmol) was dissolved in dry ether (50 mL) and dry chloroform (20 mL). The flask was placed under a constant flow of nitrogen and sulfuryl dichloride (5.02 g, 37.2 mmol) added dropwise over 15 minutes at 0° C. After 30 minutes the mixture was warmed to room temperature, stirred for another 30 minutes, returned to the ice-bath and treated with Et2O (25 mL) and conc. H2SO4 (30 mL). After 45 minutes the mixture was poured onto ice-water and extracted with further Et2O (3×75 mL). The combined organics were dried (MgSO4), filtered and concentrated to ca. 125 mL volume, whereupon silver oxide (9.96 g, 43 mmol) was added and the mixture stirred in the abscence of light for 1 hour. The mixture was filtered through celite, washing with ether and chloroform. Evaporation of the filtrate afforded an orange/yellow solid. The mixture was purified by flash chromatography, loading onto silica, eluting with a gradient of 0 to 20% EtOAc/Iso-Hexanes, holding at 9%, then re-purified by flash chromatography, loading onto silica, eluting with a gradient of 5 to 60% EtOAc/Iso-Hexanes, holding at 35%. This afforded compound x (1.15 g, 34.9%) as a bright yellow powder.

reactant | 1,4-Benzoquinone | 18.59 mmol, 2.01 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuryl dichloride | 37.2 mmol, 5.02 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | H2SO4 | 30 mL | OS(=O)(=O)O | H2O4S
solvent | ether | 50 mL | CCOCC | C4H10O
catalyst | silver oxide | 43 mmol, 9.96 g | [Ag]=O
solvent | Et2O | 25 mL | CCOCC | C4H10O
product | 2,3-dichlorocyclohexa-2,5-diene-1,4-dione | ClC=1C(C=CC(C1Cl)=O)=O | C6H2Cl2O2
